US07122543B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]-4-methoxyaniline
5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid (33 mg, 0.0841 mmol) was dissolved in methylene chloride (3 ml), then p-anisidine (21 mg, 0.1707 mmol), triethylamine (34 mg, 0.3366 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (57 mg, 0.3372 mmol) were added thereto and the mixture was stirred at room temperature for 16 hours. The reaction solution was poured into water and extracted with ethyl acetate. The extract was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer silica gel (hexane:ethyl acetate=1:1) to give the title compound (28 mg, 0.0563 mmol, 67%).

reactant | 5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoic acid | 0.0841 mmol, 33 mg | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)C1=CC=CC=C1)C)=O | C23H20O6
reactant | p-anisidine | 0.1707 mmol, 21 mg | COC1=CC=C(C=C1)N | C7H9NO
reactant | triethylamine | 0.3366 mmol, 34 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.3372 mmol, 57 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-phenylbenzoyl]-4-methoxyaniline | 0.0563 mmol, 28 mg, 67% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C1)C1=CC=CC=C1)C)=O | C30H27NO6
